// tb_sar_adc_dac_weighted_8b_ramp.scs
//
// Slow linear ramp: 0 V → VDD in 25.6 µs after reset.
// At fs = 500 MHz (T = 2 ns), ramp advances 0.9V/12800 ≈ 0.07 mV/step ≈ 0.02 LSB/step,
// giving ~50 samples per LSB-wide code bin → clean transition-voltage DNL/INL.
//
// RST_N: active-low for first 10 clock cycles (20 ns).
//
simulator lang=spectre
global 0

ahdl_include "sar_adc_weighted_8b.va"
ahdl_include "dac_weighted_8b.va"
ahdl_include "sh_ideal.va"

parameters vdd=0.9 fs=500e6

// Supply rails
Vvdd (vdd 0) vsource dc=vdd
Vvss (vss 0) vsource dc=0

// Sampling clock: 500 MHz  (period = 2 ns)
Vclks (clks 0) vsource type=pulse val0=0 val1=vdd period=2n \
               rise=100p fall=100p

// Reset: active-low for first 10 clock cycles (0 → 20 ns)
Vrst_n (rst_n 0) vsource type=pwl wave=[0 0  19.5n 0  20n vdd  26000n vdd]

// Ramp: 0 V → VDD in 25.6 µs starting at t=0 (held at 0 during reset, then ramps)
// 12800 clock cycles × 2 ns × (0.9 V / 12800) ≈ 70 µV/step ≈ 0.02 LSB/step → ~50 samples/code
Vvin (vin 0) vsource type=pwl wave=[0 0  20n 0  25620n vdd]

// ADC: VIN CLKS RST_N → DOUT[7:0]
IADC (vin clks rst_n dout_7 dout_6 dout_5 dout_4 dout_3 dout_2 dout_1 dout_0) \
      sar_adc_weighted_8b vdd=vdd

// DAC: DIN[7:0] → VOUT
IDAC (dout_7 dout_6 dout_5 dout_4 dout_3 dout_2 dout_1 dout_0 vout) \
      dac_weighted_8b vdd=vdd

// S&H: samples vin on same rising clks edge as ADC → vin_sh
ISH (vin clks vdd vss rst_n vin_sh) sh_ideal

tran tran stop=25.7u maxstep=500p
save vin vin_sh clks rst_n vout dout_7 dout_6 dout_5 dout_4 dout_3 dout_2 dout_1 dout_0
